US07674825B2
V: Methyl 4-{[2-oxodihydro-3(2H)-furanylidene]methyl}benzoate
A mixture of 40.00 g (0.12 mol) of 3-(triphenylphosphoranylidene)dihydro-2(3H)-furanone and 20.85 g (0.13 mol) of methyl 4-formylbenzoate in 240 ml of dimethyl sulfoxide is stirred at 80° C. for 18 hours. After cooling, 400 ml of chloroform are added, and the mixture is extracted five times with 200 ml of water. The organic phase is dried over magnesium sulfate and the solvent is distilled off under reduced pressure. The residue is stirred with diethyl ether and dried under reduced pressure at 40° C.

reactant | 3-(triphenylphosphoranylidene)dihydro-2(3H)-furanone | 0.12 mol, 40.00 g | C1(=CC=CC=C1)P(=C1C(OCC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H19O2P
reactant | methyl 4-formylbenzoate | 0.13 mol, 20.85 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dimethyl sulfoxide | 240 ml | CS(=O)C | C2H6OS
product | Methyl 4-{[2-oxodihydro-3(2H)-furanylidene]methyl}benzoate | O=C1OCCC1=CC1=CC=C(C(=O)OC)C=C1 | C13H12O4
